Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
doxycycline
 
Attending: ___.
 
Chief Complaint:
Abnormal CT findings 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ HTN and h/o of nephrolithiasis who recently had a CTU for 
hematuria, which has now resolved, found to have an incidental 
filling defect and so was referred to ED. CTU w/ no stones seen, 
did notice calcifications near urethral tip that could be 
related to urethral stone.  
Patient denies any acute change in SOB, CP, heart palpitations, 
lightheadedness. Has noticed more SOB when climbing stairs over 
past ___ years. Exercises regularly, both weight lifting and 
cardiovascular exercise. Has not had decreased exercise 
tolerance. Has had slight dry cough over ___ months, 
otherwise no other sx's.  
In the ED, initial vitals: 97.8 ___ 99% RA  
 - Labs were significant for: chem 10, CBC wnl; d-dimer 5019.  
 - Exam: RRR, lungs CTAB, no calf tenderness, generally 
unremarkable  
 - Imaging showed: CTA w/ bilateral PEs  
 - In the ED, he received: Started IV heparin  
 - Vitals prior to transfer: 161/94 73 14 96% RA  
Upon arrival to the floor, the patient denied any chest pain, 
dyspnea, pleurisy, ___ pain or swelling, fevers, chills, nausea, 
or vomiting. He was continued on heparin gtt and his home 
medications. The patient denies any recent long flights, 
smoking, or new medications. He does report his father has known 
protein C deficiency and had DVT/embolic events in the past. 
 
Past Medical History:
HYPERTENSION  
NEPHROLITHIASIS  
PERFORMANCE ANXIETY  
MEDULLARY SPONGE KIDNEY 
 
Social History:
___
Family History:
Mother Living ___ DIABETES TYPE II; HYPERTENSION  
Father ___ ___ SEIZURE DISORDER; TRANSIENT ISCHEMIC ATTACK; 
PROSTATE CANCER in his ___; COLONIC POLYPS in ___  
Sister Living ___ BREAST CANCER  
PGM Deceased ___ COLON CANCER  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, no calf tenderness bilaterally  
Neuro: Moving all extremities with purpose, no facial asymmetry, 
normal gait  

DISCHARGE PHYSICAL EXAM:  
Vitals: 97.8 142/79 73 18 93% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, no calf tenderness or swelling bilaterally  
Neuro: Moving all extremities with purpose, no facial asymmetry, 
normal gait  
 
Pertinent Results:
Admission Labs
___ 11:10AM BLOOD D-Dimer-5019*
___ 07:50AM BLOOD Calcium-8.7 Phos-2.9 Mg-1.9
___ 11:10AM BLOOD Creat-0.9
___ 04:13PM BLOOD Glucose-96 UreaN-20 Creat-0.9 Na-141 
K-3.8 Cl-101 HCO3-22 AnGap-22*
___ 07:50AM BLOOD Glucose-110* UreaN-14 Creat-0.7 Na-138 
K-3.8 Cl-103 HCO3-24 AnGap-15
___ 11:10AM BLOOD ___ PTT-30.0 ___
___ 04:13PM BLOOD Plt ___
___ 11:10PM BLOOD ___ PTT-100.8* ___
___ 07:50AM BLOOD ___ PTT-85.3* ___
___ 07:50AM BLOOD Plt ___
___ 04:13PM BLOOD Neuts-64.9 ___ Monos-8.3 Eos-2.1 
Baso-0.4 Im ___ AbsNeut-5.03 AbsLymp-1.84 AbsMono-0.64 
AbsEos-0.16 AbsBaso-0.03
___ 04:13PM BLOOD WBC-7.8 RBC-5.17 Hgb-16.0 Hct-46.7 MCV-90 
MCH-30.9 MCHC-34.3 RDW-13.1 RDWSD-43.1 Plt ___
___ 07:50AM BLOOD WBC-5.8 RBC-4.56* Hgb-14.2 Hct-41.0 
MCV-90 MCH-31.1 MCHC-34.6 RDW-13.0 RDWSD-42.6 Plt ___

PERTINENT RESULTS
___ 04:13PM BLOOD cTropnT-<0.01 proBNP-17

IMAGING: 

CTA chest ___

FINDINGS:  
  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level.  There are filling defects within the left 
upper lobe are 
and right middle and lobar pulmonary arteries compatible with 
pulmonary 
emboli.  Segmental pulmonary emboli also noted in the left lower 
lobe.  The 
thoracic aorta is normal in caliber without evidence of 
dissection or 
intramural hematoma.  The heart, pericardium, and great vessels 
are within 
normal limits.  There is no evidence of right heart strain.  No 
pericardial 
effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar 
lymphadenopathy is present.  No mediastinal mass. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: Lungs are clear besides mild bibasilar 
atelectasis without 
masses or areas of parenchymal opacification.  The airways are 
patent to the 
level of the segmental bronchi bilaterally. 
  
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. 
  
ABDOMEN:  Included portion of the upper abdomen is notable for a 
few 
subcentimeter hypodensities in the right and left lobes of the 
liver.  Region 
of enhancement at the dome on the right is incompletely 
characterized but may 
represent a hemangioma versus altered perfusion. 
  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
Sclerotic focus in the T2 vertebral body is likely a bone 
island.  T9 
vertebral body hemangioma is also noted. 
  
  
IMPRESSION:  
  
Bilateral lobar pulmonary emboli.  No evidence of right heart 
strain. 

 
Brief Hospital Course:
___ w/ HTN and h/o nephrolithiasis who recently had a CTU for 
hematuria, found to have an incidental filling defect and 
elevated D-dimer, confirmed to have bilateral PEs on CTA, and is 
HD stable discharged on NOAC.

#Pulmonary Emboli: Patient had an incidental finding of PE 
noticed on CTU obtained for macroscopic/microscopic hematuria. 
Although there were no clear provoking factors, patient reports 
family history (father) with ___ C deficiency. On admission, 
patient was HD stable without chest pain or pressure and 
unremarkable exam. He had no evidence of right heart strain on 
CTA, trops/BNP WNL, and EKG similar to prior (___), consistent 
with low risk PE. He was started on IV Heparin in the ED and 
transitioned to rivaroxaban following a conversation with the 
patient and his wife discussion options for anticoagulation 
(including NOAC vs lovenox vs Coumadin). He will continue 
rivaroiban for likely minimum of 3 months upon discharge.   

# Macro/microscopic hematuria: Recent CTU showed calcification 
in soft tissue near tip of penis, which could be calculus vs 
soft tissue calcification, and patient also has a history of 
benign bladder mass, which was removed in ___. Patient did not 
have hematuria during this admission and has Urology ___ 
scheduled.

#TRANSITIONAL ISSUES
 - Outpatient hypercoagulability workup after 3 months of 
anticoagulation, including testing for Protein C deficiency 
given family history
 - Given history of hematuria, monitor for hematuria while on 
anticoagulation
 - Recent CTU showed calcification in soft tissue near the tip 
of the penis, which could be calculus vs soft tissue 
calcification. Patient has Urology ___ in 5 days. 
 - Consider PCP ___ for chronic DOE over the past ___ years
 - Med changes: counseled to stop prophylactic aspirin 81 mg 
daily and avoid nsaids while on anticoagulation 

 # CODE STATUS: Full (confirmed)  
 # CONTACT: ___ (wife, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Propranolol 10 mg PO DAILY:PRN before performance  
3. Aspirin 81 mg PO DAILY 
4. diclofenac sodium 1 % topical TID:PRN 
5. olopatadine 0.1 % ophthalmic BID 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [Xarelto] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth twice a day Disp #*1 Dose Pack Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  diclofenac sodium 1 dose topical TID:PRN knee pain  
4.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
5.  olopatadine 0.1 % ophthalmic BID  
6.  Propranolol 10 mg PO DAILY:PRN before performance   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
bilateral pulmonary emboli
family history of protein C deficiency

SECONDARY DIAGNOSES: 
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

You were admitted to ___ because you were incidentally found 
to have blood clots in your lungs.

When you leave, you will need to continue to take the blood 
thinner medicine rivaroxaban until your PCP tells you 
differently. For the first 21 days you will take 15 mg 
twice/day. It is very important that you take the medicine with 
food. You can then switch to 20 mg with dinner.  

You should stop taking aspirin when you leave and avoid 
ibuprofen, aleve, naproxen, advil and medicines like this 
(NSAIDs) because they can cause more risk of bleeding.

You should also avoid sports or activities that have a high risk 
of fall or trauma that could lead to bleeding.

You will need to talk to your PCP about further work up for why 
this happened, which could include testing for Protein C 
deficiency given your family history.

It was a pleasure to care for you!
Your ___ Team
 
Followup Instructions:
___